### PR TITLE
[Merged by Bors] - feat: Flooring, ceiling roots of a natural number

### PR DESCRIPTION
**Pull request by YaelDillies**
This PR defines the flooring and ceiling root of a natural number. The `n`-th flooring/ceiling root of `a` is the natural number whose `p`-adic valuation is the floor/ceil of the `p`-adic valuation of `a`. Those operations are respectively the right and left adjoints to the map `a ↦ a ^ n`.

For example the `2`-nd flooring and ceiling roots of `2^3 * 3^2 * 5` are `2 * 3` and `2^2 * 3 * 5` respectively.

---

- [x] depends on: #9148
- [x] depends on: #9149

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+namespace Nat
+variable {a b n : ℕ}
+
+/-- Flooring root of a natural number. This divides the valuation of every prime number rounding
+down.
+
+Eg if `n = 2`, `a = 2^3 * 3^2 * 5`, then `floorRoot n a = 2 * 3`.
+
+In order theory terms, this is the upper or right adjoint of the map `a ↦ a ^ n`. -/
+noncomputable def floorRoot (n a : ℕ) : ℕ := (a.factorization ⌊/⌋ n).prod (· ^ ·)
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Nat/Factorization/Root.lean:38]: I guess it's not a great notation 😞 See `Algebra.Order.Floor.Div`

File: Mathlib/Algebra/Order/Floor/Div.lean [hunk 2]
```diff
@@ -0,0 +1,253 @@
...
+In order theory terms, those operations are respectively the right and left adjoints to the map
+`b ↦ a • b`.
+
+## Main declarations
+
+* `FloorDiv`: Typeclass for the existence of a flooring division, denoted `b ⌊/⌋ a`.
+* `CeilDiv`: Typeclass for the existence of a ceiling division, denoted `b ⌈/⌉ a`.
+
+Note in both cases we only allow dividing by positive inputs. We enforce the following junk values:
+* `b ⌊/⌋ a = b ⌈/⌉ a = 0` if `a ≤ 0`
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Floor/Div.lean:36]: Please comment on #9149

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+# Roots of natural numbers, rounded up and down
+
+This file defines the flooring and ceiling root of a natural number. The `n`-th flooring/ceiling
+root of `a` is the natural number whose `p`-adic valuation is the floor/ceil of the `p`-adic
+valuation of `a`.
+
+For example the `2`-nd flooring and ceiling roots of `2^3 * 3^2 * 5` are `2 * 3` and `2^2 * 3 * 5`
+respectively. Note this is **not** the `n`-th root of `a` as a real number, rounded up or down.
+
+Those operations are respectively the right and left adjoints to the map `a ↦ a ^ n`.
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/Root.lean:19]: I guess you have to specify the ordering. You mean the divisibility ordering, right? Because for the natural ordering, I suppose that `\lfloor sqrt{n} a \rfloor` (resp `ceil`) would be the adjoints?

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+
+This file defines the flooring and ceiling root of a natural number. The `n`-th flooring/ceiling
+root of `a` is the natural number whose `p`-adic valuation is the floor/ceil of the `p`-adic
+valuation of `a`.
+
+For example the `2`-nd flooring and ceiling roots of `2^3 * 3^2 * 5` are `2 * 3` and `2^2 * 3 * 5`
+respectively. Note this is **not** the `n`-th root of `a` as a real number, rounded up or down.
+
+Those operations are respectively the right and left adjoints to the map `a ↦ a ^ n` where `ℕ` is
+ordered by divisibility.
```
Comment (urkud) [inline Mathlib/Data/Nat/Factorization/Root.lean:20]: Please expand the docstring.

* Mention definition names.
* Link to `Nat.pow_dvd_iff` and `Nat.dvd_pow_iff`.

File: Mathlib/Data/Nat/Factorization/Root.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Data/Nat/Factorization/Root.lean:38]: If you redefine `floorRoot n 0 = 0`, then you can drop some `_ ≠ 0` assumptions below. Also, I think that it makes more sense.

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+  refine prod_pow_factorization_eq_self fun p hp ↦ ?_
+  have : p.Prime ∧ _ := by simpa using support_floorDiv_subset hp
+  exact this.1
+
+lemma pow_dvd_iff (hn : n ≠ 0) (ha : a ≠ 0) (hb : b ≠ 0) : a ^ n ∣ b ↔ a ∣ floorRoot n b := by
+  rw [← factorization_le_iff_dvd (pow_ne_zero _ ha) hb,
+    ← factorization_le_iff_dvd ha floorRoot_ne_zero, factorization_pow, factorization_floorRoot,
+    le_floorDiv_iff_smul_le (β := ℕ →₀ ℕ) (pos_iff_ne_zero.2 hn)]
+
+lemma floorRoot_pow_dvd (hn : n ≠ 0) (ha : a ≠ 0) : floorRoot n a ^ n ∣ a :=
```
Comment (urkud) [inline Mathlib/Data/Nat/Factorization/Root.lean:62]: This works without assumptions.

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+  (pow_dvd_iff hn floorRoot_ne_zero ha).2 dvd_rfl
+
+/-- Ceiling root of a natural number. This divides the valuation of every prime number rounding up.
+
+Eg if `n = 3`, `a = 2^4 * 3^2 * 5`, then `ceilRoot n a = 2^2 * 3 * 5`.
+
+In order theory terms, this is the lower or left adjoint of the map `a ↦ a ^ n`. -/
+noncomputable def ceilRoot (n a : ℕ) : ℕ := (a.factorization ⌈/⌉ n).prod (· ^ ·)
```
Comment (urkud) [inline Mathlib/Data/Nat/Factorization/Root.lean:70]: Same here about zero.

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 7]
```diff
@@ -0,0 +1,99 @@
...
+
+For example the `2`-nd flooring and ceiling roots of `2^3 * 3^2 * 5` are `2 * 3` and `2^2 * 3 * 5`
+respectively. Note this is **not** the `n`-th root of `a` as a real number, rounded up or down.
+
+Those operations are respectively the right and left adjoints to the map `a ↦ a ^ n` where `ℕ` is
+ordered by divisibility.
+
+## TODO
+
+`norm_num` extension
```
Comment (urkud) [inline Mathlib/Data/Nat/Factorization/Root.lean:24]: ... and/or a computable `@[csimp]` version.

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 8]
```diff
@@ -0,0 +1,99 @@
...
+@[simp] lemma ceilRoot_ne_zero : ceilRoot n a ≠ 0 := by
+  simp (config := { contextual := true }) [ceilRoot, not_imp_not]
+
+@[simp] lemma factorization_ceilRoot (n a : ℕ) :
+    (ceilRoot n a).factorization = a.factorization ⌈/⌉ n := by
+  refine prod_pow_factorization_eq_self fun p hp ↦ ?_
+  have : p.Prime ∧ _ := by simpa using support_ceilDiv_subset hp
+  exact this.1
+
+lemma dvd_pow_iff (hn : n ≠ 0) (ha : a ≠ 0) : a ∣ b ^ n ↔ ceilRoot n a ∣ b := by
```
Comment (urkud) [inline Mathlib/Data/Nat/Factorization/Root.lean:89]: It looks like you need `b ≠ 0 ∨ n ≠ 0` here.

File: Mathlib/Data/Nat/Factorization/Root.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Nat/Factorization/Root.lean:38]: Nice observation. I agree it makes more sense.

File: Mathlib/Data/Nat/Factorization/Root.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Factorization/Root.lean:89]: This can't possibly work. When plugging `n = 0`, the statement reduces to `a = 1 ↔ ceilRoot 0 a ∣ b`, which can be true for all `b` only if `a = 1` and `ceilRoot 0 1 = 1`.

For the record:
* When plugging `b = 0`, the statement reduces to `n = 0 → a = 1`, which is okay if we assume `n ≠ 0`.
* When plugging `a = 0`, the statement reduces to `b = 0 ∧ n ≠ 0 ↔ ceilRoot n 0 ∣ b`, which is okay if we assume `n ≠ 0` and set `ceilRoot n 0 = 0`.

File: Mathlib/Data/Nat/Factorization/Root.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Factorization/Root.lean]: How is that for a docstring?

File: Mathlib/Data/Nat/Factorization/Root.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Factorization/Root.lean]: It would be possible to make the implication `a ∣ b ^ n → ceilRoot n a ∣ b` unconditional by setting `ceilRoot 0 a = 0` if `a ≠ 0`. Do you think that's worth the asymmetry with `floorRoot`?

File: Mathlib/Data/Nat/Factorization/Root.lean [hunk 9]
```diff
@@ -0,0 +1,149 @@
...
+# Roots of natural numbers, rounded up and down
+
+This file defines the flooring and ceiling root of a natural number.
+`Nat.floorRoot n a`/`Nat.ceilRoot n a`, the `n`-th flooring/ceiling root of `a`, is the natural
+number whose `p`-adic valuation is the floor/ceil of the `p`-adic valuation of `a`.
+
+For example the `2`-nd flooring and ceiling roots of `2^3 * 3^2 * 5` are `2 * 3` and `2^2 * 3 * 5`
+respectively. Note this is **not** the `n`-th root of `a` as a real number, rounded up or down.
+
+Those operations are respectively the right and left adjoints to the map `a ↦ a ^ n` where `ℕ` is
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/Root.lean:19]:
```suggestion
These operations are respectively the right and left adjoints to the map `a ↦ a ^ n` where `ℕ` is
```

**Review by jcommelin — APPROVED** [review]
bors d+
